US07790720B2
A solution of (2-chloro-1,3-oxazol-4-yl)methyl methanesulfonate i59 (7.9 g, 37.44 mmol, 1 eq), piperidine (7.41 ml, 74.89 mmol, 2 eq) and sodium iodide (0.56 g, 3.74 mmol, 0.1 eq) in acetonitrile (250 ml) is stirred at room temperature overnight. The mixture is then poured into a 0.1 N hydrochloric acid solution and extracted with diethyl ether. The organic layer is dried over magnesium sulfate, filtered and the solvent is removed under reduced pressure. Purification by chromatography over silicagel (eluent: dichloromethane/methanol/ammonia 98:1.8:0.2) affords 3 g of 1-[(2-chloro-1,3-oxazol-4-yl)methyl]piperidine i60.

reactant | (2-chloro-1,3-oxazol-4-yl)methyl methanesulfonate | CS(=O)(=O)OCC=1N=C(OC1)Cl | C5H6ClNO4S
reactant | piperidine | 74.89 mmol, 7.41 ml, 2 eq | N1CCCCC1 | C5H11N
reactant | sodium iodide | 3.74 mmol, 0.56 g, 0.1 eq | [I-].[Na+]
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-[(2-chloro-1,3-oxazol-4-yl)methyl]piperidine | 3 g, Yield: 40% | ClC=1OC=C(N1)CN1CCCCC1 | C9H13ClN2O
